US05624935
6-Bromo-2-hydroxymethyl-3H-imidazo[4,5-b]pyridine
A procedure similar to that described in Preparation 43 was repeated, except that 7.00 g of 5-bromo-2,3-diaminopyridine (prepared as described in Preparation 57) and 8.50 g of glycolic acid were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 7.05 g of the title compound, melting at 230°-233° C.

reactant | 5-bromo-2,3-diaminopyridine | 7.00 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | glycolic acid | 8.50 g | C(CO)(=O)O | C2H4O3
product | 6-Bromo-2-hydroxymethyl-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)CO | C7H6BrN3O
